US04497650
3-Butyl-1,2-dihydro-2,2-dimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
The title compound was prepared from 2-aminobenzimidazole, acetone, and n-butyl isocyanate, conducting the initial condensation and subsequent base hydrolysis of the intermediate 10-N-butylcarbamoyl precursor as described in Example 1. The solid product had mp 142°-149° C. (dec.). The confirmatory elemental analysis is shown in Table III.

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | n-butyl isocyanate | C(CCC)N=C=O | C5H9NO
reactant | acetone | CC(=O)C | C3H6O
product | 3-Butyl-1,2-dihydro-2,2-dimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | C(CCC)N1C(NC2=NC3=C(N2C1=O)C=CC=C3)(C)C | C15H20N4O
